US09169261B2
To a solution of ethyl 2-phenyl-2H-tetrazole-5-carboxylate (0.84 g, 3.9 mmol, 1 eq) in 7.6 mL of EtOH/H2O (1.5:1) was added NaOH (0.31 g, 7.8 mmol, 2 eq). The reaction mixture was heated at 60° C. for 30 min and was then quenched with 0.65 mL of conc. HCl. The contents were filtered and washed with MeOH and the filtrate was dried with Na2SO4 and concentrated in vacuo. Purification by silica gel flash chromatography (100% EtoAc) afforded 2-phenyl-2H-tetrazole-5-carboxylic acid (0.41 g, 2.2 mmol, 55%).

reactant | ethyl 2-phenyl-2H-tetrazole-5-carboxylate | 3.9 mmol, 0.84 g, 1 eq | C1(=CC=CC=C1)N1N=C(N=N1)C(=O)OCC | C10H10N4O2
reactant | NaOH | 7.8 mmol, 0.31 g, 2 eq | [OH-].[Na+]
solvent | EtOH H2O | 7.6 mL | CCO.O
product | 2-phenyl-2H-tetrazole-5-carboxylic acid | 2.2 mmol, 0.41 g, 55% | C1(=CC=CC=C1)N1N=C(N=N1)C(=O)O | C8H6N4O2
